US20010027196A1
A solution of 50 mF (0.16 mmol) 2-amino-4-furan-2-yl-6-(4-vinyl-benzylamino)-pyrimidine-5-carbonitrile in 10 ml ethanol was stirred with a spatula end of 10% palladium on charcoal under 1 atm of hydrogen for 16 h at room temperature. After filtration to remove the catalyst, the reaction mixture was concentrated in vacuo. Chromatography (ethyl acetate) followed by trituration in ether/hexane afforded 12 mg (24%) 2-amino-4-(4-ethyl-benzylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile as a white crystalline solid. ES-MS m/e (%): 320 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-(4-vinyl-benzylamino)-pyrimidine-5-carbonitrile | 0.16 mmol | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCC1=CC=C(C=C1)C=C | C18H15N5O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-amino-4-(4-ethyl-benzylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile | 12 mg, 24% | NC1=NC(=C(C(=N1)NCC1=CC=C(C=C1)CC)C#N)C=1OC=CC1 | C18H17N5O
